US06372770B1
(b) 6-Amino-2-bromophenol
2-Bromo-6-nitrophenol (1.506 g, 0.0057 mol, containing 2,4-di-bromo-6-nitrophenol, 18% w/w) and sodium hydrosulfite (3.05 g, 85%, 0.015 mol) were heated at reflux in ethanol/water (50 ml of a 5:1 v/v mixture). After 2 hours, the reaction mixture was diluted with water (150 ml) and extracted with dichloromethane (3×50 ml), and ethyl acetate (100 ml). The organic extracts were combined, dried over calcium sulfate, evaporated in vacuo, and purified by flash chromatography (SiO2, petrol/ether 1:1 v/v) to furnish a mixture of the title compound and 6-amino-2,4-di-bromophenol (0.600 g, of a 76:24 w/w mixture as judged by 1 H-NMR). Yield 6-amino-2-bromophenol, 43%.

reactant | 2-Bromo-6-nitrophenol | 0.0057 mol, 1.506 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | sodium hydrosulfite | 0.015 mol, 3.05 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 6-amino-2,4-di-bromophenol | NC1=CC(=CC(=C1O)Br)Br | C6H5Br2NO
solvent | ethanol water | C(C)O.O
solvent | water | 150 ml | O | H2O
product | 6-Amino-2-bromophenol | NC1=CC=CC(=C1O)Br | C6H6BrNO
